US07994185B2
A 5 mL microwave tube was charged with N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (250 mg, 0.464 mmol) and 3-aminopropionitrile (163 mg, 2.319 mmol) and CsF (70.5 mg, 0.464 mmol) in dimethyl sulfoxide (3.00 mL) to give a yellow solution at rt under nitrogen. The sealed reaction mixture was microwaved at 90° C. for 30 min. For second time, the sealed reaction mixture was microwaved at 100° C. for 1 h. The reaction was diluted with water and a white solid formed. The reaction was filtered and washed with water. The crude product was chromatographed on silica gel column and eluted with CH2Cl2 with chloroform/methanol/ammonium hydroxide (90:9:1) (5% to 100%) and collected fractions. Water and DCM were added to solid and take to a pH=6 and extracted with DCM (3×). The CH2Cl2 layers were dried over Na2SO4, filtered, and concentrated to obtain N-{3-[5-{2-[(2-cyanoethyl)amino]-4-pyrimidinyl}-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (35 mg, 12%). MS (ESI): 573 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.464 mmol, 250 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | 3-aminopropionitrile | 2.319 mmol, 163 mg | NCCC#N | C3H6N2
reactant | CsF | 0.464 mmol, 70.5 mg | [F-].[Cs+]
solvent | dimethyl sulfoxide | 3.00 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-{3-[5-{2-[(2-cyanoethyl)amino]-4-pyrimidinyl}-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 35 mg, 12% | C(#N)CCNC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C26H23F3N6O2S2
